US08044213B2
To a solution of 0.25 g (0.5 mmole) of 4-(3-chloro-phenyl)-2-[5-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid ethyl ester (I.2e) in 10 mL of tetrahydrofuran and 10 mL of water was added 0.12 g (5 mmole) of lithium hydroxide. The mixture was stirred at ambient temperature for 1 hour. The mixture was concentrated under reduced pressure, 40 mL of water was added and the pH adjusted to 6-7 by the addition of 1M hydrochloric acid. The precipitate was collected by filtration to give 0.120 g of 4-(3-chloro-phenyl)-2-[5-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid (I.3a) as a white solid.

reactant | 4-(3-chloro-phenyl)-2-[5-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid ethyl ester | 0.5 mmole, 0.25 g | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=CC(=C2)CN2CCN(CC2)C)C2=CC(=CC=C2)Cl | C25H26ClN5O2S
reactant | lithium hydroxide | 5 mmole, 0.12 g | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 4-(3-chloro-phenyl)-2-[5-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid | 0.120 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=CC(=C2)CN2CCN(CC2)C | C23H22ClN5O2S
